US07713994B2
4-{[4-(4-Methyl-piperazin-1-yl)-phenylamino]-methylene}-6-(2-morpholin-4-yl-ethoxy)-4H-isoquinoline-1,3-dione
A mixture of 4-methoxymethylene-6-(2-morpholin-4-yl-ethoxy)-4H-isoquinoline-1,3-dione (115 mg, 0.35 mmole), N,N-dimethylformamide (1 mL) and 4-(4-methyl-piperazin-1-yl)-phenylamine (66 mg, 0.35 mmole) is stirred and heated at 110° C. for one hour, cooled in the refrigerator. The reaction mixture is evaporated to dryness, taken up in 5% methanol in chloroform and passed through a short pad of Florisil eluting with 5% methanol in chloroform. The eluate is evaporated in vacuo and treated with ether, filtered and dried to give a yellow solid 72 mg (42%), mp 142-143° C.; MS (ES+): m/z 492.2 (M+H).

reactant | 4-methoxymethylene-6-(2-morpholin-4-yl-ethoxy)-4H-isoquinoline-1,3-dione | 0.35 mmole, 115 mg | COC=C1C(NC(C2=CC=C(C=C12)OCCN1CCOCC1)=O)=O | C17H20N2O5
reactant | 4-(4-methyl-piperazin-1-yl)-phenylamine | 0.35 mmole, 66 mg | CN1CCN(CC1)C1=CC=C(C=C1)N | C11H17N3
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 4-{[4-(4-Methyl-piperazin-1-yl)-phenylamino]-methylene}-6-(2-morpholin-4-yl-ethoxy)-4H-isoquinoline-1,3-dione | 72 mg, 42% | CN1CCN(CC1)C1=CC=C(C=C1)NC=C1C(NC(C2=CC=C(C=C12)OCCN1CCOCC1)=O)=O | C27H33N5O4
